US06884907B2
To a solution of O-benzyl-N-(2,4,6-trimethoxy-benzyl)hydroxylamine (2.0 g, 6.59 mmol) in dichloromethane (15 mL) was added triethylamine (1.0 mL, 7.25 mmol). The solution was cooled at 0° C. and ethyl malonyl chloride (0.85 mL, 6.59 mmol) was added. Precipitation was gradually formed. The resulting yellow slushy mixture was stirred at 0° C. for 15 min then brought up to rt and stirred for overnight. The solvent was removed under reduced pressure and the crude product was dissolved in EtOAc. The organic solution was consecutively washed with aq. 10% KHSO4 and aq. saturated NaHCO3. The organic layer was dried over Na2SO4 and concentrated. The crude material was stirred in H2O-THF (1:1 by volume, 30 mL) containing NaOH (1.32 g, 33 mmol) for 1 h. The reaction mixture was washed with EtOAc and the aqueous layer was acidified with aq. 10% KHSO4 solution. The product was extracted with EtOAc, dried over Na2SO4, and concentrated to give 1.62 g of 3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropanoic acid as a white solid (63% yield).

reactant | O-benzyl-N-(2,4,6-trimethoxy-benzyl)hydroxylamine | 6.59 mmol, 2.0 g | C(C1=CC=CC=C1)ONCC1=C(C=C(C=C1OC)OC)OC | C17H21NO4
reactant | triethylamine | 7.25 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 6.59 mmol, 0.85 mL | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | NaOH | 33 mmol, 1.32 g | [OH-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropanoic acid | 1.62 g, 63% yield | C(C1=CC=CC=C1)ON(C(CC(=O)O)=O)CC1=C(C=C(C=C1OC)OC)OC | C20H23NO7
